US08012974B2
Phosgene (ca. 20% in toluene, 0.9 mL) was added to a 0° C. solution of 5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine (0.300 g, 1.1 mmol) and diisopropylethylamine (0.6 mL, 3.4 mmol) in 10 mL of dichloromethane. The mixture was stirred for 10 min., then cis-2-methylcyclohexylamine hydrochloride (prepared as in Knupp, G. Chem. Ber. 1984, 117(6), 2076-98, using racemic α-methylbenzylamine) (0.249 g, 1.6 mmol) was added as a solution in 2 mL of dichloromethane with a few added drops of diisopropylethylamine. The mixture was stirred for 40 min., then concentrated to a residue. Column chromatography afforded 0.25 g (55%) of 1-(cis-2-methyl-cyclohexyl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea.

reactant | Phosgene | 0.9 mL | C(=O)(Cl)Cl | CCl2O
reactant | 5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine | 1.1 mmol, 0.300 g | C[Si](CCOCN1C=CC=2C1=NC=C(N2)N)(C)C | C12H20N4OSi
reactant | diisopropylethylamine | 3.4 mmol, 0.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cis-2-methylcyclohexylamine hydrochloride | 1.6 mmol, 0.249 g | Cl.C[C@@H]1[C@@H](CCCC1)N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(cis-2-methyl-cyclohexyl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.25 g, 55% | C[C@@H]1[C@@H](CCCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C20H33N5O2Si
